US04788195
N-(4-Methoxyphenyl)-4-(3-pyridinyl)-2-pyrimidinamine
A mixture of 14.4 g of 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one and 16.1 g of 4-methoxyphenyl guanidine carbonate in 200 ml of isopropanol was heated at reflux for 20 hours. The reaction mixture was cooled, the crude product was collected by filtration and washed with water. The material was recrystallized from isopropanol to give the desired product as light yellow crystals, mp 121°-122° C.

reactant | 3-dimethylamino-1-(3-pyridinyl)-2-propen-1-one | 14.4 g | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | 4-methoxyphenyl guanidine carbonate | 16.1 g | C(O)(O)=O.COC1=CC=C(C=C1)NC(=N)N
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | N-(4-Methoxyphenyl)-4-(3-pyridinyl)-2-pyrimidinamine | COC1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H14N4O
